US05856334
Preparation of 4,5-dihydro-2-(2-phenylethyl)-6H-imidazo[4,5,1-ij]quinolin-6-one (compound of Example 1)
A hundred grams of 3-phenylpropionitrile was dissolved in anhydrous ether (200 mL), followed by addition of dry methanol (38 mL) and bubbling with hydrogen chloride gas. The reaction solution was stored overnight in a refrigerator and the precipitating crystals were collected by filtration with ether, yielding colorless crystals (152 g). The resulting crystals (15 g) and 8-amino-2,3-dihydro-4(1H)-quinolinone (10 g) were dissolved in acetic acid (50 mL) and heated under reflux for 8 hrs. The solvent was removed under reduced pressure and a saturated aqueous solution of sodium hydrogencarbonate was added to the residue, thereby making it alkaline. Following extraction with ethyl acetate, the organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography to yield the titled compound as pale yellow crystals (7.0 g). The crystals thus obtained had spectrum data and a melting point that agreed with those obtained in Example 1.

reactant | 8-amino-2,3-dihydro-4(1H)-quinolinone | 10 g | NC=1C=CC=C2C(CCNC12)=O | C9H10N2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-2-(2-phenylethyl)-6H-imidazo[4,5,1-ij]quinolin-6-one | 7.0 g | C1(=CC=CC=C1)CCC1=NC=2C=CC=C3C(CCN1C23)=O | C18H16N2O
